US05028606
A mixture of 3.76 parts of 4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine, 4.5 parts of diphenylethanedione and 80 parts of ethanol was stirred for 4 hours at reflux temperature. The reaction mixture was concentrated and the concentrate was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 1,1'-oxybisethane and ethanol. The product was filtered off and dried, yielding 4 parts (55%) of 6-(1H-imidazol-1-ylmethyl)-2,3-diphenylquinoxaline; mp. 159.3° C. (comp. 8).

reactant | 4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine | N1(C=NC=C1)CC=1C=C(C(=CC1)N)N | C10H12N4
reactant | diphenylethanedione | C1(=CC=CC=C1)C(C(=O)C1=CC=CC=C1)=O | C14H10O2
solvent | ethanol | C(C)O | C2H6O
product | 6-(1H-imidazol-1-ylmethyl)-2,3-diphenylquinoxaline | 55% | N1(C=NC=C1)CC=1C=C2N=C(C(=NC2=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H18N4
